US06025494
Methyl 1,2,3,4-tetrahydro-1-(4-hydroxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, Cis Isomer
The same method but starting from racemic tryptophan ethyl ester and 4-hydroxybenzaldehyde gave the title compound as pale yellow crystals 1H NMR (DMSO) δ(ppm): 10.3 (s, 1H, NH-indole) 9.4 (s, 1H, OH); 7.8-7.5 (m, 8H, H aromatic); 5.1 (brs, 1H, H-1); 3.9 (m, 1H, H-3); 3.75 (s, 3H, CO2CH3) 3.1 (m, 1H, H4); 2.8 (m, 1H, H-4).

reactant | racemic tryptophan ethyl ester | C(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C13H16N2O2
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | Methyl 1,2,3,4-tetrahydro-1-(4-hydroxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | OC1=CC=C(C=C1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C19H18N2O3
